US07125904B2
[4-(tert-butyldimethylsilanyloxy)-3-oxobutyl]carbamic acid tert-butyl ester
To a solution of Dess-Martin periodinane (5.0 g, 11.8 mmol) in anhydrous dichloromethane (35 mL) at room temperature was added a solution of [4-(tert-butyldimethylsilanyloxy)-3-hydroxybutyl]carbamic acid tert-butyl ester (3.77 g, 11.8 mmol) in anhydrous dichloromethane. The resulting mixture was stirred at room temperature for one hour, evaporated in vacuo to one third of the initial volume and applied to a column packed with silica. Elution with ethyl acetate-petroleum ether solvent mixture afforded a colourless oil.

reactant | Dess-Martin periodinane | 11.8 mmol, 5.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [4-(tert-butyldimethylsilanyloxy)-3-hydroxybutyl]carbamic acid tert-butyl ester | 11.8 mmol, 3.77 g | C(C)(C)(C)OC(NCCC(CO[Si](C)(C)C(C)(C)C)O)=O | C15H33NO4Si
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | [4-(tert-butyldimethylsilanyloxy)-3-oxobutyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(CO[Si](C)(C)C(C)(C)C)=O)=O | C15H31NO4Si
